US09169502B2
Fructose 1,6-bisphosphatase (FBPase)
Cell disruption was performed in Tris/HCl buffer (100 mM, pH 7.8). The reaction for determination of transaldolase was performed in 50 mM Tris/HCl buffer (pH 7.8) additionally containing 1 mM fructose 6-phosphate, 0.5 mM NADH, 4 mM erythrose 4-phosphate, 6 U TPI/GDH and 50 μl of crude cell extract. TPI/GDH served as coupling enzymes to allow online monitoring at 340 nm.

reactant | fructose 6-phosphate | 1 mM | P(=O)(O)(O)OC[C@H]([C@H]([C@@H](C(CO)=O)O)O)O | C6H13O9P
reactant | NADH | 0.5 mM | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | erythrose 4-phosphate | 4 mM | P(=O)(O)(O)OC[C@H]([C@H](C=O)O)O | C4H9O7P
solvent | Tris HCl | 100 mM, pH 7.8 | C(C(CO)(CO)N)O.Cl
solvent | Tris HCl | 50 mM, pH 7.8 | C(C(CO)(CO)N)O.Cl
product | Fructose | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
